US06875884B1
To a mixture of 4-chlorophenylacetic acid (500 mg, 3.0 mmol) and 2-(4-chlorophenyl)ethylamine (456 mg, 3.0 mmol) in DMF (50 ml) were added WSC.HCl (592 mg, 3.1 mmol), HOBt.H2O (474 mg, 3.1 mmol) and triethylamine (0.43 ml, 3.1 mmol), and the mixture was stirred at RT for 18 h. After adding water, the mixture was extracted with ethyl acetate, washed with brine, dried over magnesium sulfate, and filtered. Concentrating under vacuum gave N-[2-(4-chlorophenyl)ethyl]-(4-chlorophenyl)acetamide (819 mg, 89%) which was used in the next step without further purification.

reactant | 4-chlorophenylacetic acid | 3.0 mmol, 500 mg | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | 2-(4-chlorophenyl)ethylamine | 3.0 mmol, 456 mg | ClC1=CC=C(C=C1)CCN | C8H10ClN
reactant | WSC.HCl | 3.1 mmol, 592 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 3.1 mmol, 0.43 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | H2O | 3.1 mmol, 474 mg | O | H2O
product | N-[2-(4-chlorophenyl)ethyl]-(4-chlorophenyl)acetamide | 819 mg, 89% | ClC1=CC=C(C=C1)CCNC(CC1=CC=C(C=C1)Cl)=O | C16H15Cl2NO
